US04065618
In a further example, p-nitrobenzyl 7-phenoxyacetamido-3-methylsulfonyloxy-3-cephem-4-carboxylate is reacted in DMF at 0° C. with 2-molar equivalents of piperidine to provide after isolation, p-nitrobenzyl 7-phenoxyacetamido-3-piperidino-3-cephem-4-carboxylate.

reactant | p-nitrobenzyl 7-phenoxyacetamido-3-methylsulfonyloxy-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O10S2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | p-nitrobenzyl 7-phenoxyacetamido-3-piperidino-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)N2CCCCC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C27H28N4O7S
